Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Coronary artery bypass grafting x1 with the left internal 
mammary artery to the left anterior descending artery
 
History of Present Illness:
___ year old male with known coronary artery disease and s/p 
stents in the past who originally presented to ___ 
___ with episodes of exertional angina that escalated to 
rest. He had an episode of pressure in his jaw, neck and ears 
while he was exerting himself. The event lasted a few minutes, 
but he began to have chest tightness and chest pressure 
associated with radiation to the neck, jaw, ears. He had an 
appointment the following morning, at ___, where he was ruled out for MI by troponins, but due to 
EKG changes he was sent for a cardiac catheterization, which 
revealed an ostial LAD lesion that was positive by fractional 
flow reserve (FFR) and a small OM. He was transferred to ___ 
to evaluate for PCI vs CABG. After cardiology at ___ reviewed 
films it was determined to consult cardiac surgery for surgical 
revascularization.
 
Past Medical History:
Coronary artery disease
Hyperlipidemia  
Tobacco use
Umbilical hernia repair w/ mesh
4 prior stents: ___: ramus BMS, ___: ramus Mid Left Cx and 
mid RCA s/p stenting all patent
 
Social History:
___
Family History:
Maternal grandfather with first MI age ___ 
Father first MI age ___
Several uncles developed CAD in ___
 
Physical Exam:
Pulse:58 Resp:18  O2 sat:99/RA
B/P  ___
Height:68"   Weight:96.8 kg

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  No murmurs appreciated
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  No edema
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: p   Left: p
DP           Right: p   Left: p
___           Right: p   Left: p
Radial       Right: p   Left: p

Carotid Bruit        Right: -    Left: -
 
Pertinent Results:
ADMISSION LABS
================
___ 06:15AM BLOOD WBC-7.7 RBC-5.21 Hgb-15.5 Hct-46.4 MCV-89 
MCH-29.8 MCHC-33.4 RDW-13.8 RDWSD-44.9 Plt ___
___ 06:15AM BLOOD ___ PTT-40.3* ___
___ 06:15AM BLOOD Glucose-119* UreaN-16 Creat-0.8 Na-138 
K-4.5 Cl-102 HCO3-26 AnGap-15
___ 07:35AM BLOOD ALT-46* AST-24 AlkPhos-79 TotBili-0.4
___ 06:15AM BLOOD Calcium-9.4 Phos-4.2 Mg-2.2
___ 06:15AM BLOOD %HbA1c-6.8* eAG-148*

STUDIES/IMAGING
===============
___ CARDIAC CATH ___:
The coronary circulation is right dominant. 
- Left main: normal
- Ostial LAD: there was a discrete 60% stenosis
- Circumflex: Angiography showed minor luminal irregularities
- ___ obtuse marginal: The vessel was small sized. There was a 
discrete 95% stenosis at the ostium of the vessel segment.
- Proximal ramus intermedius. There was a diffuse 20% stenosis 
at the site of a prior stent.
- Mid RCA: There was a 0% stenosis at the site of a prior stent. 
In a second lesion, there was a tubular 20% stenosis.

Lesion Intervention: A percutaneous intervention was performed 
on the 60% lesion in the proximal LAD. Following intervention 
there was a 60% residual stenosis. This was an ACC/AHA "non-high 
risk" lesion for intervention. There was TIMI 3 flow before the 
procedure and TIMI 3 flow after the procedure. There was no 
acute vessel closure. There was no perforation. There was no 
dissection. 

TTE ___
The left atrium is elongated. Left ventricular wall thicknesses 
and cavity size are normal. There is mild regional left 
ventricular systolic dysfunction with focal hypokinesis of the 
basal to mid inferior wall. The remaining segments contract 
normally (LVEF = 55 %). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). There is a mild 
resting left ventricular outflow tract obstruction. There is no 
ventricular septal defect. The right ventricular cavity is 
mildly dilated The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

IMPRESSION: Suboptimal image quality. Regional left ventricular 
systolic dysfunction c/w CAD. Mild right ventricular cavity 
dilation. RV function difficult to assess given limited acoustic 
windows

DISCHARGE LABS
================
___ 06:05AM BLOOD WBC-8.9 RBC-4.00* Hgb-11.8* Hct-37.5* 
MCV-94 MCH-29.5 MCHC-31.5* RDW-14.4 RDWSD-49.5* Plt ___
___ 03:05AM BLOOD WBC-15.7* RBC-4.44* Hgb-13.1* Hct-40.2 
MCV-91 MCH-29.5 MCHC-32.6 RDW-13.7 RDWSD-45.6 Plt ___
___ 03:05AM BLOOD ___ PTT-27.5 ___
___ 06:05AM BLOOD Glucose-112* UreaN-30* Creat-1.0 Na-138 
K-3.9 Cl-97 HCO3-28 AnGap-17
___ 03:05AM BLOOD Glucose-121* UreaN-23* Creat-1.1 Na-137 
K-5.0 Cl-99 HCO3-27 AnGap-16
___ 06:05AM BLOOD Mg-2.5
.
Conclusions   
Pre-bypass

 The left atrium is normal in size. No mass/thrombus is seen in 
the left atrium or left atrial appendage. No atrial septal 
defect is seen by 2D or color Doppler. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). The right ventricular free wall is hypertrophied. 
The right ventricular cavity is mildly dilated with normal free 
wall contractility. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Trace aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. 
There is an anterior space which most likely represents a 
prominent fat pad. 

 Post-bypass

 The patient is in sinus rhythm and receiving a phenylephrine 
infusion.
 Biventricular function remains preserved.
 Valvular function is unchanged.
 The thoracic aorta is intact following decannulation.

 

 
Brief Hospital Course:
Mr. ___ was transferred from outside hospital after cardiac 
cath revealed an ostial LAD lesion. Upon admission he received 
medical management while undergoing surgical work-up and 
awaiting Plavix wash-out. On ___ he was brought to the operating 
room where he underwent a coronary artery bypass graft x 1. 
Please see operative note for surgical details. Following 
surgery he was transferred to the CVICU for invasive monitoring 
in stable condition. Later this day he was weaned from sedation, 
awoke neurologically intact and extubated.
Beta blocker was initiated and the patient was gently diuresed 
toward the preoperative weight.  The patient was transferred to 
the telemetry floor for further recovery.  Chest tubes and 
pacing wires were discontinued without complication.  The 
patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  He had significant pain 
post-operatively and was managed with Dilaudid, Neurontin and 
Toradol.  He is advised to continue ibuprofen for 1 week, as 
well as a lidocaine patch for shoulder pain. He developed 
drainage from the superior sternal pole.  He will be discharged 
with swabs/daily dressing changes and an early wound check.  By 
the time of discharge on POD 4 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged home in good condition 
with appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Rosuvastatin Calcium 40 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Fexofenadine 60 mg PO BID 
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
3.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
4.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Severe 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0 
5.  Ibuprofen 800 mg PO Q8H Duration: 7 Days 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0 
6.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine 5 % 1 patch qpm Disp #*15 Patch Refills:*1 
7.  Metoprolol Tartrate 50 mg PO TID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1 
8.  Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0 
9.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
10.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*60 
Tablet Refills:*1 
11.  Aspirin 81 mg PO DAILY  
12.  Clopidogrel 75 mg PO DAILY  
13.  Fexofenadine 60 mg PO BID  
14.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 1
Past medical history:
Hyperlipidemia  
Tobacco use
Umbilical hernia repair w/ mesh
4 prior stents: ___: ramus BMS, ___: ramus Mid Left Cx and 
mid RCA s/p stenting all patent
 
Discharge Condition:
Alert and oriented x3 non-focal 
Ambulating with steady gait
Incisional pain managed with Dilaudid
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg - healing well, no erythema or drainage
Edema- trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___